US08664220B2
Step 1: 3-{4′-[3-Methyl-4-(5-phenyl[1,3,4]oxadiazol-2-ylamino)-isoxazol-5-yl]-biphenyl-4-yl}-propionic acid ethyl ester
Prepared according to the procedure described in Example 42, Step 2, using [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-(5-phenyl-[1,3,4]oxadiazol-2-yl)-amine and [4-(2-ethoxycarbonylethyl)phenyl]boronic acid.

reactant | [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-(5-phenyl-[1,3,4]oxadiazol-2-yl)-amine | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)NC=1OC(=NN1)C1=CC=CC=C1 | C18H13BrN4O2
reactant | [4-(2-ethoxycarbonylethyl)phenyl]boronic acid | C(C)OC(=O)CCC1=CC=C(C=C1)B(O)O | C11H15BO4
product | 3-{4′-[3-Methyl-4-(5-phenyl[1,3,4]oxadiazol-2-ylamino)-isoxazol-5-yl]-biphenyl-4-yl}-propionic acid ethyl ester | C(C)OC(CCC1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC=1OC(=NN1)C1=CC=CC=C1)=O | C29H26N4O4
